US05958942
ii) Synthesis of 4,5-dihydro-4-[4-(methanesulfonamido) phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride
To a suspension of 248 mg (0.67 mmol) of 4,5-dihydro-4-[4-(methanesulfonamido)phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 15 ml of methanol was added 0.09 ml of conc. HCl. The solvent was distilled off. To the residue was added acetone. The resulting solid was washed with acetone and dried to afford 273 mg of the desired compound (100%, a colorless solid).

reactant | 4,5-dihydro-4-[4-(methanesulfonamido)phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 0.67 mmol, 248 mg | CS(=O)(=O)NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C17H14N4O4S
reactant | HCl | 0.09 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 4,5-dihydro-4-[4-(methanesulfonamido) phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride | 273 mg | Cl.CS(=O)(=O)NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | InChI=1S/C17H14N4O4S.ClH/c1-26(24,25)19-12-7-5-11(6-8-12)10-20-16(22)13-3-2-4-15-18-9-14(17(20)23)21(13)15;/h2-9,19H,10H2,1H3;1H
